US04843061
A mixture of 70 g (0.61 mol) of trans-4-methyl-2-pentenoic acid and 49 g (0.72 mol) of 1,3-pentadiene was heated for 12 hours at approx. 200° C. in an autoclave. After the reaction mixture had cooled, it was checked by means of GLC for the presence of 4-methyl-2-pentenoic acid. A further 25 g (0.36 mol) of 1,3-pentadiene were added, after which the mixture was again heated for 12 hours at 200° C. This procedure was repeated until no further decrease in the content of 4-methyl-2-pentenoic acid was any longer observed. The reaction mixture obtained was dissolved in 300 ml of ether and extracted with 300 ml of 10% NaOH solution. The alkaline solution thus obtained was acidified with 40 g of concentrated sulphuric acid and then extracted three times with ether. The ether extract was washed with water, dried on MgSO4, evaporated down and distilled. 73 g of 6-isopropyl-2-methyl-3-cyclohexene-1-carboxylic acid were obtained, b.p.: 95°-100° C./70 Pa.

reactant | trans-4-methyl-2-pentenoic acid | 0.61 mol, 70 g | CC(/C=C/C(=O)O)C | C6H10O2
reactant | 1,3-pentadiene | 0.72 mol, 49 g | C=CC=CC | C5H8
reactant | 4-methyl-2-pentenoic acid | CC(C=CC(=O)O)C | C6H10O2
reactant | 1,3-pentadiene | 0.36 mol, 25 g | C=CC=CC | C5H8
reactant | sulphuric acid | 40 g | S(O)(O)(=O)=O | H2O4S
solvent | ether | 300 ml | CCOCC | C4H10O
product | 6-isopropyl-2-methyl-3-cyclohexene-1-carboxylic acid | 73 g | C(C)(C)C1CC=CC(C1C(=O)O)C | C11H18O2
